US06790860B2
In analogy: (2S,4R)-2-benzyloxymethyl-4-tritylsulfanyl-pyrrolidine and 2,4-dioxo-1,4-dihydro-2H-benzo[d][1,3]oxazine-6-sulfonyl chloride [Ferrini et al. Eur. Pat. Appl. No. 800220] gave (2S,4R)-6-(2-benzyloxymethyl-4-tritylsulfanyl-pyrrolidine-1-sulfonyl)-1H-benzo[d][1,3]oxazine-2,4-dione, MS: 689(M−H−), which was deprotected (following Method 3) to give (2S,4R)-6-(2-benzyloxymethyl-4-mercapto-pyrrolidine-1-sulfonyl)-1H-benzo[d][1,3]oxazine-2,4-dione, MS: 447 (M−H−).

reactant | (2S,4R)-2-benzyloxymethyl-4-tritylsulfanyl-pyrrolidine | C(C1=CC=CC=C1)OC[C@H]1NC[C@@H](C1)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C31H31NOS
reactant | 2,4-dioxo-1,4-dihydro-2H-benzo[d][1,3]oxazine-6-sulfonyl chloride | O=C1OC(C2=C(N1)C=CC(=C2)S(=O)(=O)Cl)=O | C8H4ClNO5S
product | (2S,4R)-6-(2-benzyloxymethyl-4-tritylsulfanyl-pyrrolidine-1-sulfonyl)-1H-benzo[d][1,3]oxazine-2,4-dione | C(C1=CC=CC=C1)OC[C@H]1N(C[C@@H](C1)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)S(=O)(=O)C1=CC2=C(NC(OC2=O)=O)C=C1 | C39H34N2O6S2
